US05958918
B. (4-Cyano-2-methylphenoxy)acetic acid methyl ester
Methyl bromoacetate (0.56 mL, 5.92 mmol) is added to a solution of phenol (0.70 g, 5.29 mmol), K2CO3 (1.6 g, 11.6 mmol) and tetrabutyl ammonium iodide (0.57 g, 1.53 mmol) in 30 mL of DMF. The resulting solution is heated to 80° C. for 16 hours. The solution is then cooled to ambient temperatures. The solution is diluted with EtOAc. The resulting solution is washed with H2O and saturated NaCl. The organic layer is dried over MgSO4, filtered and concentrated. The crude product is purified by column chromatography eluting with a gradient of 10% EtOAc/hexanes to 50% EtOAc/hexanes to afford the title compound (1.4 g, 0.8 mmol).

reactant | Methyl bromoacetate | 5.92 mmol, 0.56 mL | BrCC(=O)OC | C3H5BrO2
reactant | phenol | 5.29 mmol, 0.70 g | C1(=CC=CC=C1)O | C6H6O
reactant | K2CO3 | 11.6 mmol, 1.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutyl ammonium iodide | 1.53 mmol, 0.57 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4-Cyano-2-methylphenoxy)acetic acid methyl ester | 0.8 mmol, 1.4 g | COC(COC1=C(C=C(C=C1)C#N)C)=O | C11H11NO3
